* c:\fossee\esim\library\subcircuitlibrary\cd4027b_jk_ff\cd4027b_jk_ff.cir

.include Buffer.sub
.include NOT.sub
.include NAND.sub
.include OR.sub
.include AND.sub
.include PMOS-180nm.lib
.include NMOS-180nm.lib
x1 net-_u1-pad2_ net-_x1-pad2_ net-_u1-pad8_ net-_u1-pad9_ Buffer
x2 net-_u1-pad1_ net-_x12-pad1_ net-_u1-pad8_ net-_u1-pad9_ NOT
x3 net-_u1-pad3_ net-_x3-pad2_ net-_u1-pad8_ net-_u1-pad9_ NOT
x4 net-_u1-pad4_ net-_x11-pad2_ net-_u1-pad8_ net-_u1-pad9_ NOT
x5 net-_u1-pad5_ net-_m2-pad2_ net-_u1-pad8_ net-_u1-pad9_ NOT
x6 net-_m2-pad2_ net-_m1-pad2_ net-_u1-pad8_ net-_u1-pad9_ NOT
x8 net-_x13-pad3_ net-_x8-pad2_ net-_u1-pad8_ net-_u1-pad9_ NOT
x10 net-_x10-pad1_ net-_x10-pad2_ net-_m1-pad3_ net-_u1-pad8_ net-_u1-pad9_ AND
m2 net-_m1-pad1_ net-_m2-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m4 net-_m3-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m1-pad1_ CMOSN W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m2-pad2_ net-_m1-pad1_ net-_m3-pad1_ CMOSP W=100u L=100u M=1
m6 net-_m5-pad1_ net-_m1-pad2_ net-_m5-pad3_ net-_m5-pad3_ CMOSN W=100u L=100u M=1
m5 net-_m5-pad1_ net-_m2-pad2_ net-_m5-pad3_ net-_m5-pad1_ CMOSP W=100u L=100u M=1
m8 net-_m7-pad1_ net-_m2-pad2_ net-_m5-pad1_ net-_m5-pad1_ CMOSN W=100u L=100u M=1
m7 net-_m7-pad1_ net-_m1-pad2_ net-_m5-pad1_ net-_m7-pad1_ CMOSP W=100u L=100u M=1
x14 net-_x13-pad3_ net-_u1-pad6_ net-_u1-pad8_ net-_u1-pad9_ Buffer
x15 net-_m7-pad1_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ Buffer
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ port
x11 net-_m1-pad1_ net-_x11-pad2_ net-_m5-pad3_ net-_u1-pad8_ net-_u1-pad9_ NAND
x12 net-_x12-pad1_ net-_m5-pad3_ net-_m3-pad1_ net-_u1-pad8_ net-_u1-pad9_ NAND
x13 net-_x12-pad1_ net-_m5-pad1_ net-_x13-pad3_ net-_u1-pad8_ net-_u1-pad9_ NAND
x16 net-_x13-pad3_ net-_x11-pad2_ net-_m7-pad1_ net-_u1-pad8_ net-_u1-pad9_ NAND
x9 net-_x8-pad2_ net-_x3-pad2_ net-_x10-pad2_ net-_u1-pad8_ net-_u1-pad9_ OR
x7 net-_x1-pad2_ net-_x13-pad3_ net-_x10-pad1_ net-_u1-pad8_ net-_u1-pad9_ OR
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
